US06013827
To a suspension of sodium methoxide (350 mL, 1.55 mol, 25% w/w in methanol) in toluene (2.45 L) heated to 80° C. under a nitrogen atmosphere was added a solution of dimethyl 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)pimelate (350.0 g, 0.87 mol) in toluene (1.05 L) over 10 min. The reaction was heated to 85° C. by distilling away 250 mL of solvent and was vigorously stirred under nitrogen for 2 hours. The reaction was cooled to 50° C. and was quenched with 3N (aq) HCl (700 mL, 2.1 mol). The organic layer was isolated, was washed once with deionized water (700 mL) and once with brine (700 mL). The organic layer was concentrated via low vacuum distillation to afford crude 2-carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexane-1-one in toluene. This was dissolved in 4.2 L of dimethyl sulfoxide and used in the next step.

reactant | sodium methoxide | 1.55 mol, 350 mL | C[O-].[Na+]
reactant | dimethyl 4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)pimelate | 0.87 mol, 350.0 g | C(#N)C(CCC(=O)OC)(CCC(=O)OC)C1=CC(=C(C=C1)OC)OC1CCCC1 | C22H29NO6
reactant | HCl | 2.1 mol, 3N, 700 mL | Cl | ClH
solvent | toluene | 2.45 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.05 L | C1(=CC=CC=C1)C | C7H8
product | 2-carbomethoxy-4-cyano-4-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexane-1-one | C(=O)(OC)C1C(CCC(C1)(C1=CC(=C(C=C1)OC)OC1CCCC1)C#N)=O | C21H25NO5
